US07820672B2
a) 5-Chloro-2-methyl-4-nitro-1H-indole
4-Chloro-3-nitroaniline (10.0 g, 57.9 mmol) is dissolved in DMSO (130 ml). Acetone (8.52 ml, 115.9 mmol) and potassium tert-butylate (13.0 g, 115.9 mmol) are added. The temperature is kept below 30° C. by the use of an ice bath. After 90 minutes at RT, TLC analysis indicated complete conversion of the starting material. The reaction mixture is poured on water, acidified with aqueous 2M HCl, and then extracted with EtOAc. The organic layer is washed with saturated aqueous NaCl solution, dried over Na2SO4 and concentrated. Purification by FCC (CH2Cl2) affords a slightly brownish solid, which by 1H-NMR analysis is an approximately 1:1 mixture of the desired title compound and the corresponding de-chlorinated derivative. Careful purification by preparative HPLC affords the title compound. 1H NMR (DMSO, 400 MHz) δ 2.50 (s, 3H), 6.40 (s, 1H), 7.26 (d, J=9.0 Hz, 1H), 7.61 (d, J=9.0 Hz, 1H), 11.8 (s, 1H); ES-MS: 209 [M−H]−.

reactant | 4-Chloro-3-nitroaniline | 57.9 mmol, 10.0 g | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | Acetone | 115.9 mmol, 8.52 ml | CC(=O)C | C3H6O
reactant | potassium tert-butylate | 115.9 mmol, 13.0 g | CC(C)(C)[O-].[K+]
reactant | HCl | 2M | Cl | ClH
solvent | DMSO | 130 ml | CS(=O)C | C2H6OS
product | 5-Chloro-2-methyl-4-nitro-1H-indole | ClC=1C(=C2C=C(NC2=CC1)C)[N+](=O)[O-] | C9H7ClN2O2
